US04447361
8-Chloro-11-methyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine
To a stirred suspension of 0.25 g (0.01 mole) of sodium hydride (in mineral oil) in 15 ml of anhydrous dimethylformamide was added, portionwise, 3.05 g (0.01 mole) of 8-chloro-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine. The mixture was warmed at about 60° C. for one hr. A solution of 1.42 g (0.01 mole) of methyl iodide in 10 ml of anhydrous dimethylformamide was added dropwise over a 0.5 hr period and the reaction mixture stirred overnight at room temperature after which it was poured into 400 ml of water and stirred for 2 hr. The precipitated solid was recrystallized twice from isopropyl alcohol to give 2.0 g of product, m.p. 153°-6° C. Drying conditions prior to analyses were 1 hr at 82° C./0.1 mm Hg.

reactant | sodium hydride | 0.01 mole, 0.25 g | [H-].[Na+]
reactant | 8-chloro-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine | 0.01 mole, 3.05 g | ClC=1C=CC2=C(C(=NC3=C(N2)N=CC=C3)C3=CC=CC=C3)C1 | C18H12ClN3
reactant | methyl iodide | 0.01 mole, 1.42 g | CI | CH3I
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-Chloro-11-methyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine | 2.0 g | ClC=1C=CC2=C(C(=NC3=C(N2C)N=CC=C3)C3=CC=CC=C3)C1 | C19H14ClN3
